US08293903B2
A 0° C. solution of tert-butyl (1S,4S)-5-{[(1S,3R)-3-amino-1-(2,2-difluoroethyl)cyclopentyl]carbonyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (3.45 g, 9.2 mmol) in dichloromethane (50 ml) was treated with sodium triacetoxyborohydride (5.34 g, 25.2 mmol) and (3R)-3-methoxytetrahydro-4H-pyran-4-one (2.31 g, 17.8 mmol). The reaction was stirred under nitrogen at 0° C. for 30 minutes then allowed to warm to room temperature and stirred for 47 hours. The reaction was treated with 2.5N NaOH (35 mL) and stirred for 10 minutes. The reaction was diluted with water and the layers separated. The aqueous layer was extracted twice with ethyl acetate. The dichloromethane layer was concentrated under reduced pressure and partitioned between ethyl acetate and water. The organic layers were combined, washed with brine, dried over MgSO4, concentrated under reduced pressure and purified with the Biotage (0-100% methanol/ethyl acetate, 15 column volumes) to give 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol (2.13 g, 47%) which was used without further purification in the next step.

reactant | tert-butyl (1S,4S)-5-{[(1S,3R)-3-amino-1-(2,2-difluoroethyl)cyclopentyl]carbonyl}-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 9.2 mmol, 3.45 g | N[C@H]1C[C@@](CC1)(CC(F)F)C(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C18H29F2N3O3
reactant | sodium triacetoxyborohydride | 25.2 mmol, 5.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (3R)-3-methoxytetrahydro-4H-pyran-4-one | 17.8 mmol, 2.31 g | CO[C@@H]1COCCC1=O | C6H10O3
reactant | NaOH | 2.5N, 35 mL | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1,5-anhydro-3-{[(1R,3S)-3-{[(1S,4S)-5-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]hept-2-yl]carbonyl}-3-(2,2-difluoroethyl)cyclopentyl]amino}-2,3-dideoxy-4-O-methyl-D-erythro-pentitol | 2.13 g, 47% | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2CCOC[C@H]2OC)CC(F)F | C24H39F2N3O5
